US09428483B2
(2) (1S,2S,3S,5R,6S)-2-Amino-2-((1-(((cyclohexyloxy)carbonyl)oxy)ethoxy)carbonyl)-3-fluorobicyclo[3.1.0]hexane-6-carboxylic acid (B-1)
(1S,2S,3S,5R,6S)-6-((Allyloxy)carbonyl) 2-(((allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid (B-1-1, 701 mg) and 1-chloroethyl cyclohexyl carbonate (664 mg) were treated in the same manner as in Example A-8 (1), (2) to give the title compound (B-1, 115 mg) as a yellow solid.

reactant | (1S,2S,3S,5R,6S)-6-((Allyloxy)carbonyl) 2-(((allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid | 701 mg | C(C=C)OC(=O)[C@H]1[C@@H]2C[C@@H]([C@]([C@H]12)(C(=O)O)NC(=O)OCC=C)F | C15H18FNO6
reactant | 1-chloroethyl cyclohexyl carbonate | 664 mg | C(OC(C)Cl)(OC1CCCCC1)=O | C9H15ClO3
product | (1S,2S,3S,5R,6S)-2-Amino-2-((1-(((cyclohexyloxy)carbonyl)oxy)ethoxy)carbonyl)-3-fluorobicyclo[3.1.0]hexane-6-carboxylic acid | 115 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)O)C(=O)OC(C)OC(=O)OC1CCCCC1 | C17H24FNO7
